US08309734B2
2-(3-Chloro-phenoxy)-5-fluoro-nicotinic acid was prepared in analogy to Example 1, Step 1, replacing 2-chloro-nicotinic acid with 2-chloro-5-fluoro-nicotinic acid ([CAS RN 38186-88-8]) and 3-trifluoromethyl-phenol with 3-chloro-phenol ([CAS RN 108-43-0]). 1H NMR (400 MHz, DMSO): δ7.09 (dd, J=8.4 Hz, J=1.6 Hz, 1H), 7.24-7.25 (m, 2H), 7.44 (t, J=8.4 Hz, 1H), 8.19 (dd, J=8.1 Hz, J=3.2 Hz, 1H), 8.37 (d, J=3.2 Hz, 1H), 13.60 (s, 1H). 19F NMR (376.5 MHz, DMSO): −134.4. MS (ISN): 266.0 [M−H]−.

reactant | 2-chloro-5-fluoro-nicotinic acid | ClC1=C(C(=O)O)C=C(C=N1)F | C6H3ClFNO2
reactant | 3-trifluoromethyl-phenol | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | 3-chloro-phenol | ClC=1C=C(C=CC1)O | C6H5ClO
product | 2-(3-Chloro-phenoxy)-5-fluoro-nicotinic acid | ClC=1C=C(OC2=C(C(=O)O)C=C(C=N2)F)C=CC1 | C12H7ClFNO3
